US06831081B2
N-(4-Chlorobenzyl)-2-(((3R)-3-((R)-hydroxy(phenyl)methyl)morpholin-4-yl)-methyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
N-(4-Chlorobenzyl)-2-(chloromethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (Preparation 1, 134 mg) and (R)-(3R)-morpholin-3-yl(phenyl)methanol hydrochloride (Preparation 6, 112 mg) in DMF (3 mL) is treated with diisopropylethylamine (0.5 mL). The mixture is heated at 95° C. overnight. After cooling to room temperature, the solution is poured into ethyl acetate (75 mL) and washed with dilute pH 4 phosphate buffer (25 mL), dilute pH 7 phosphate buffer (2×25 mL), and brine (25 mL). The organic layer is dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting residue is purified by flash column chromatography (methanol/CH2Cl2, 1-3%) and ethyl acetate-hexanes crystallization to afford 0.15 g of the title compound. Physical characteristics. M.p. 171-172° C.; 1H NMR(400 MHz, DMSO-d6) δ 10.63, 8.71, 7.4-7.3, 7.3, 5.42, 5.09, 4.55, 4.50, 4.15, 3.97, 3.5, 3.4, 3.04, 2.9, 2.8, 2.4; HRMS m/z 538.1558 (M+H)+. Anal. Found. C, 62.41; H, 5.17; N, 7.73.

reactant | N-(4-Chlorobenzyl)-2-(chloromethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 134 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CCl)=O)C=C1 | C17H14Cl2N2O2S
reactant | (R)-(3R)-morpholin-3-yl(phenyl)methanol hydrochloride | 112 mg | Cl.N1[C@H](COCC1)[C@H](O)C1=CC=CC=C1
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2-(((3R)-3-((R)-hydroxy(phenyl)methyl)morpholin-4-yl)-methyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.15 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CN3[C@H](COCC3)[C@@H](C3=CC=CC=C3)O)=O)C=C1 | C28H28ClN3O4S
